US04282242
5-(3,5-Dimethoxybenzoyl)pyrrole-3-carboxylic Acid
Methyl 5-(3,4-dimethoxybenzoyl)pyrrole-3-carboxylate (3.7 g.) was refluxed with 40 ml. of methanol and 40 ml. of 1 N sodium hydroxide for 2 hours and isolated by the procedure of Example 73. Recrystallization from methanol gave purified 5-(3,5-dimethoxybenzoyl)pyrrole-3-carboxylic acid (1.5 g., m.p. 267°-269° C.).

reactant | Methyl 5-(3,4-dimethoxybenzoyl)pyrrole-3-carboxylate | 3.7 g | COC=1C=C(C(=O)C2=CC(=CN2)C(=O)OC)C=CC1OC | C15H15NO5
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | methanol | CO | CH4O
product | 5-(3,5-Dimethoxybenzoyl)pyrrole-3-carboxylic Acid | COC=1C=C(C(=O)C2=CC(=CN2)C(=O)O)C=C(C1)OC | C14H13NO5
